US07863446B2
Preparation of 3-[6-{4-[2,6-dimethoxypyrimidin-4-yl]piperazin-1-yl}-5-phenyl-2-(trifluoromethyl)pyrimidin-4-yl]benzenesulfonamide
A solution of 3-[6-chloro-5-phenyl-2-(trifluoromethyl)pyrimidin-4-yl]benzenesulfonamide (0.1 g, 0.242 mmol) in pyridine (1.5 ml) was treated with 2,4-dimethoxy-6-piperazin-1-ylpyrimidine (0.081 g, 0.363 mmol) and the reaction mixture was stirred for 8 hours. Subsequently the reaction mixture was poured onto ice-cold water and extracted with ethyl acetate (25 ml). The organic layer was washed with brine and evaporated to furnish the title compound. 1H-NMR (CDCl3) δ: 3.39-3.41 (m, 4H), 3.51-3.52 (m, 4H), 3.87-3.88 (s, 6H), 7.07-7.09 (d, 2H), 7.20-7.26 (m, 3H), 7.30-7.32 (m, 1H), 7.47-7.61 (t, 1H), 7.64 (s, 1H), 7.82-7.87 (m, 2H). MS m/z: 601.8 (M+).

reactant | 3-[6-chloro-5-phenyl-2-(trifluoromethyl)pyrimidin-4-yl]benzenesulfonamide | 0.242 mmol, 0.1 g | ClC1=C(C(=NC(=N1)C(F)(F)F)C=1C=C(C=CC1)S(=O)(=O)N)C1=CC=CC=C1 | C17H11ClF3N3O2S
reactant | 2,4-dimethoxy-6-piperazin-1-ylpyrimidine | 0.363 mmol, 0.081 g | COC1=NC(=CC(=N1)OC)N1CCNCC1 | C10H16N4O2
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
product | 3-[6-{4-[2,6-dimethoxypyrimidin-4-yl]piperazin-1-yl}-5-phenyl-2-(trifluoromethyl)pyrimidin-4-yl]benzenesulfonamide | COC1=NC(=CC(=N1)N1CCN(CC1)C1=C(C(=NC(=N1)C(F)(F)F)C=1C=C(C=CC1)S(=O)(=O)N)C1=CC=CC=C1)OC | C27H26F3N7O4S
